US03996376
2,2-Bis(Trifluoromethyl)-4-Azidomethyl-1,3-Dioxolane
A sample of 14.00 grams of 2,2-bis(trifluoromethyl)-4-tosyloxymethyl-1,3-dioxolane (m.p. 58°-60° C.) is dissolved in 40 ml of dimethylformamide and 4.85 grams NaN3 is added. The mixture is stirred magnetically at 140°-149° C. for 3.5 hours. The product is diluted with benzene and filtered. The filtrate is washed thoroughly with water, vacuum-stripped and distilled. The product, 2,2-bis(trifluoromethyl)-4-azidomethyl-1,3-dioxolane, has a boiling point of 78° C./20 mm Hg and a refractive index of 1.37447 at 20° C.

reactant | 2,2-bis(trifluoromethyl)-4-tosyloxymethyl-1,3-dioxolane | 14.00 grams | FC(C1(OCC(O1)COS(=O)(=O)C1=CC=C(C)C=C1)C(F)(F)F)(F)F | C13H12F6O5S
reactant | NaN3 | 4.85 grams | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2-Bis(Trifluoromethyl)-4-Azidomethyl-1,3-Dioxolane | FC(C1(OCC(O1)CN=[N+]=[N-])C(F)(F)F)(F)F | C6H5F6N3O2
